US09056859B2
To a solution of (4-amino-2-methylphenyl)acetic acid (0.10 g, 0.61 mmol) and triethyl orthoformate (0.16 ml, 0.97 mmol) in acetic acid (1 ml) was added sodium azide (0.059 g, 0.91 mmol). The resulting mixture was heated to reflux for 4 hours. The mixture was poured into ice water and the resulting solid collected by filtration and dried, under vacuum to provide [2-methyl-4-(1H-tetrazol-1-yl)phenyl]acetic acid. LC-MS (IE, m/z): 219 [M+1]+.

reactant | (4-amino-2-methylphenyl)acetic acid | 0.61 mmol, 0.10 g | NC1=CC(=C(C=C1)CC(=O)O)C | C9H11NO2
reactant | triethyl orthoformate | 0.97 mmol, 0.16 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium azide | 0.91 mmol, 0.059 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | [2-methyl-4-(1H-tetrazol-1-yl)phenyl]acetic acid | CC1=C(C=CC(=C1)N1N=NN=C1)CC(=O)O | C10H10N4O2
